2141-05-23 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - LDH at 700
   - PM Lytes: Lactate 3.4 (from 1.1), K 3.2, P 1.0
   - HCT 33.6 from 38.1
   - UOP to 30/hr from 60/hr
   - Received 4 L of fluids
   - Received: 14 g CaGluc, 60 KPhos, 2 Pkt Neutra Phos, 54 oral K Meq
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-5-23**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-23**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 122 (106 - 131) bpm
   BP: 121/87(94) {88/54(63) - 154/101(112)} mmHg
   RR: 24 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  7,602 mL
                                                                  1,144 mL
   PO:
             TF:
   IVF:
                                                                  4,602 mL
                                                                    634 mL
   Blood products:
   Total out:
                                                                  1,553 mL
                                                                    380 mL
   Urine:
                                                                  1,018 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,049 mL
                                                                    764 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   9.7 g/dL
   95 mg/dL
   0.4 mg/dL
   19 mEq/L
   4.1 mEq/L
   4 mg/dL
   103 mEq/L
   130 mEq/L
   30.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2141-5-22**]  04:30 AM
                             [**2141-5-22**]  06:56 AM
                             [**2141-5-22**]  02:55 PM
                             [**2141-5-22**]  09:13 PM
                             [**2141-5-23**]  03:59 AM
   WBC
   13.2
   12.3
   Hct
   38.1
   33.6
   33.7
   30.7
   Plt
   108
   88
   Cr
   0.4
   0.5
   0.4
   0.4
   TCO2
   14
   Glucose
   116
   163
   117
   95
   Other labs: PT / PTT / INR:11.8/29.5/1.0, Amylase / Lipase:/372,
   Differential-Neuts:86.5 %, Lymph:10.5 %, Mono:2.5 %, Eos:0.4 %, Lactic
   Acid:3.4 mmol/L, Albumin:2.5 g/dL, LDH:722 IU/L, Ca++:5.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   42 YOF with EtOH abuse, hypertension, seizure disorder present with
   findings c/w pancreatitis and hypotension.
   .
   # Pancreatitis: [**Last Name (un) 1840**] score of 3 @ 48 hours = 16% mortality rate.
   APACHE II score suggests lower mortality risk ~ 3%.  Causes are
   alcohol, gallstones (unlikely given negative radiography), and elevated
   triglycerides.
   - pain control with morphine
   - get cholesterol level, LDH, albumin
   - provide IVF support
   - NJ tube placement to start enteral feeds VS TPN depending on comfort
   of team/patient
   - serial abdominal exam
   .
   # hypotension: now resolved after IVF, continue to trend.
   - trend VS
   - trend hct [**Hospital1 **]
   - 2 IV, maintain TSS, hold 2 Units pRBCs
   .
   # alcohol abuse: given chronic history and underlying seizure disorder
   will need to be vigilant in watching for withdrawal
   - valium per CIWA scale
   - IV MVI/thiamine/folate
   - continue to monitor for withdrawal symptoms.
   .
   # decreased bicarb: likely a combination of alcohol ketoacidosis, will
   continue monitor.
   - provide IVF and trend
   .
   # Transaminits: likely alcohol induced (AST/ALT [**3-13**]), but could also be
   NASH/[**Doctor Last Name **] overlap +/- fibrosis. If [**Doctor Last Name **], not severe given normal INR and
   bilirubin
   - just trend for now.
   .
   # hyponatremia: hypovolemic hyponatremia given n/v, will trend; likely
   will resolve after IVF.
   - [**Hospital1 **] lytes
   - IVF support target 2-3L
   .
   # leukocytosis with bandemia: likely due to the underlying
   pancreatitis, will need to trend.
   .
   # thrombocytopenia: could be due alchohol related myelosupression,
   hemodilution given fluid, other drug effect or splenomegaly.  -
   continue to trend
   .
   # hypocalcemia/hypophos/hypomag: correct as needed.
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-5-23**] 01:00 AM
   20 Gauge - [**2141-5-23**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-05-23 08:58:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Feels somewhat better, reduced abd pain.
   Denies chest pain, dyspnea (although appears dyspnea during AM rounds).
   Experiencing episodes of anxiety.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-5-23**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**6-15**] Moderate
   Pain location: Abd, diffuse
   Flowsheet Data as of  [**2141-5-23**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 122 (106 - 131) bpm
   BP: 109/80(88) {91/54(63) - 154/101(112)} mmHg
   RR: 21 (19 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  7,602 mL
                                                                  1,144 mL
   PO:
             TF:
   IVF:
                                                                  4,602 mL
                                                                    634 mL
   Blood products:
   Total out:
                                                                  1,553 mL
                                                                    440 mL
   Urine:
                                                                  1,018 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,049 mL
                                                                    704 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   88 K/uL
   95 mg/dL
   0.4 mg/dL
   19 mEq/L
   4.1 mEq/L
   4 mg/dL
   103 mEq/L
   130 mEq/L
   30.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2141-5-22**]  04:30 AM
                             [**2141-5-22**]  06:56 AM
                             [**2141-5-22**]  02:55 PM
                             [**2141-5-22**]  09:13 PM
                             [**2141-5-23**]  03:59 AM
   WBC
   13.2
   12.3
   Hct
   38.1
   33.6
   33.7
   30.7
   Plt
   108
   88
   Cr
   0.4
   0.5
   0.4
   0.4
   TCO2
   14
   Glucose
   116
   163
   117
   95
   Other labs: PT / PTT / INR:11.8/29.5/1.0, Amylase / Lipase:/372,
   Differential-Neuts:86.5 %, Lymph:10.5 %, Mono:2.5 %, Eos:0.4 %, Lactic
   Acid:3.4 mmol/L, Albumin:2.5 g/dL, LDH:722 IU/L, Ca++:5.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   42 yof EtOH abuse, hypertension, seizure disorder present with findings
   c/w pancreatitis.
   HYPOTENSION -- Hypovolemia, reduced PO intake.  Concern for possible
   sepsis, although likely SIRS.  Monitor BP, maintain MAP >60 mmHg.
   PANCREATITIS -- acute, related to EtOH and/or lipidemia.  Low mortality
   category.  Continue current level of management (fluids, pain
   management).  Monitor amylase, lipase.  Surgery now off case.
   DYSPNEA -- crackles on exam.  Monitor CXR
 concern for pulmonary
   edema.
   HYPONATREMIA -- total body depleted, clinically.  Plan check serum
   osmolality, urine osmolality.  Monitor serial Na.
   ACIDOSIS -- HCO3  improved, with repletion.  , non-gap, with ABG
   consistent with metabolic acidosis.
   LACTIc ACIDOSIS -- persistent.  Suggests hypoperfusion or thiamine
   deficiency.
   EtOH ABUSE -- chronic.  Last consumption 5 days ago, need to monitor
   for evidence of withdrawal (DTs).
   LFT abnormality
 attributed to EtOH.  Monitor.
   FLUIDS --  Marked volume resusitation.  Monitor I/O, BP, urine output.
   Plan net diuresis (lasix) to treat pulmonary edema.
   ANXIETY -- continue usual meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-5-23**] 01:00 AM
   20 Gauge - [**2141-5-23**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-05-24 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-5-23**] 06:55 PM
   Peripheral
 URINE CULTURE - At [**2141-5-23**] 08:00 PM
 BLOOD CULTURED - At [**2141-5-24**] 04:48 AM
 FEVER - 101.7
F - [**2141-5-24**] 05:00 AM
   - Nutrition recs if tube --> replete with fiber at 60 ml/hr . Start at
   10, advance 10 q4-6
   - c/o new SOB, CXR showed pulm edema, gave lasix 10 mg IV x 1, patient
   had good UOP to this
   - continued to replete Ca, Phos, K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-5-23**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2141-5-23**] 08:36 PM
   Morphine Sulfate - [**2141-5-24**] 04:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-24**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 130 (117 - 139) bpm
   BP: 116/72(80) {103/63(69) - 133/89(98)} mmHg
   RR: 35 (18 - 36) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  1,683 mL
                                                                    404 mL
   PO:
             TF:
                                                                     60 mL
                                                                    171 mL
   IVF:
                                                                  1,013 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                  2,000 mL
   Urine:
                                                                  2,375 mL
                                                                  2,000 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -842 mL
                                                                 -1,596 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   81 K/uL
   8.1 g/dL
   95 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   4 mg/dL
   103 mEq/L
   135 mEq/L
   25.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2141-5-22**]  04:30 AM
                             [**2141-5-22**]  06:56 AM
                             [**2141-5-22**]  02:55 PM
                             [**2141-5-22**]  09:13 PM
                             [**2141-5-23**]  03:59 AM
                             [**2141-5-23**]  12:39 PM
                             [**2141-5-23**]  07:02 PM
                             [**2141-5-24**]  04:24 AM
   WBC
   13.2
   12.3
   6.0
   Hct
   38.1
   33.6
   33.7
   30.7
   25.8
   Plt
   108
   88
   81
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   14
   Glucose
   116
   163
   117
   95
   87
   98
   95
   Other labs: PT / PTT / INR:11.5/31.0/1.0, ALT / AST:25/69, Alk Phos / T
   Bili:60/1.2, Amylase / Lipase:/372, Differential-Neuts:86.5 %,
   Lymph:10.5 %, Mono:2.5 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, LDH:903 IU/L, Ca++:7.1 mg/dL, Mg++:2.4 mg/dL, PO4:1.4
   mg/dL
   Assessment and Plan
   42 YOF with EtOH abuse, hypertension, seizure disorder present with
   findings c/w pancreatitis and hypotension.
   .
   # Pancreatitis: [**Last Name (un) 1840**] score of 3 @ 48 hours = 16% mortality rate.
   APACHE II score suggests lower mortality risk ~ 3%.  Causes are
   alcohol, gallstones (unlikely given negative radiography), and elevated
   triglycerides.  Her Lipase was downtrending over three days, though
   this does not correlate with severity. Her HCT has fallen from 38 to
   25. Her respiratory failure (below), could be a complication (3^rd
   spacing with edema vs ARDS)
   - pain control with morphine
   - Follow HCT, CRP levels
   - provide IVF support
   - NJ tube placement to start enteral feeds VS TPN if patient cannot
   tolerated
   - serial abdominal exams
   .
   # hypoxia
 Initially attributed to pulmonary edema.  This AM patient
   in greater distress despite having a net negative fluid balance and
   improved CXR. Worried about ARDS vs PE.
   - EKG, cardiac enzymes
   - TTE to assess cardiac function
   - hold CTA as patient has difficulty lying flat at this time; if that
   improves or if patient intubated, could consider CTA torso (to eval for
   PE, as well as hemorrhagic pancreatitis)
   - continue diuresis
   - close monitoring
   .
   # Severe malnutrition: protein-energy component (low albumin) but
   mainly manifest in severe calcium, phosphorous deficiencies
   - TEN or TPN if cannot tolerate
   - aggressive lytes repletion
   - thiamine, folate
   .
   # Anemia: likely chronic and acute. Chronic: likely alcoholic
   myelosuppression with mixed iron/foltate deficiency (RDW > 20). Acute
   hydration and dilution with blood loss
   - guaiac stool
   - active T+S
   - low threshold to rescan abdomen for hemorrhagic conversion
   .
   # alcohol abuse: given chronic history and underlying seizure disorder
   will need to be vigilant in watching for withdrawal
   - valium per CIWA scale
   - IV MVI/thiamine/folate
   - continue to monitor for withdrawal symptoms.
   .
   # Transaminits: likely alcohol induced (AST/ALT [**3-13**]), but could also be
   NASH/[**Doctor Last Name **] overlap +/- fibrosis. If [**Doctor Last Name **], not severe given normal INR and
   bilirubin. She has fatty infiltration on CT
   - just trend for now.
   .
   # hyponatremia: hypovolemic hyponatremia given n/v, will trend; likely
   will resolve after IVF.
   - [**Hospital1 **] lytes
   - IVF support target 2-3L
   .
   # leukocytosis with bandemia: likely due to the underlying
   pancreatitis, will need to trend.
   .
   # thrombocytopenia: could be due alchohol related myelosupression,
   hemodilution given fluid, other drug effect or splenomegaly.  -
   continue to trend
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-5-23**] 06:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-5-23**] 01:00 AM
   20 Gauge - [**2141-5-23**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-05-25 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-5-24**] 03:15 PM
 TRANSTHORACIC ECHO - At [**2141-5-24**] 03:36 PM
 BRONCHOSCOPY - At [**2141-5-24**] 04:42 PM
 PICC LINE - START [**2141-5-24**] 07:00 PM
 ARTERIAL LINE - START [**2141-5-24**] 11:03 PM
 FEVER - 103.2
F - [**2141-5-25**] 04:00 AM
   - diuresed well, but down trending WBC/Hct
   - gave another lasix 10 mg IV x 1 in the AM
   - ABG noted to have PaO2 of 48, responded to O2.
   - EKG - wnl.  CE - flat.  guaiac stool
   - Echo: LVEF >55%. There is no ASD/VSD. no mitral valve prolapse. The
   estimated pulmonary artery systolic pressure is normal. There is a
   trivial/physiologic pericardial effusion.
   - got the power PICC, CXR looks like ARDS
   - transfuse Hct > 28, trend plt (PM hct stable)
   - intubated and went for CTA of Torsal - final read pnd. 1. findings
   consistent with severe, acute pancreatitis, but no evidence of
   pancreatic necrosis or hemorrhage conversion. extensive peripancreatic
   free fluid, unchanged in extent from [**2141-5-21**]. continued marked bowel
   wall thickening of the duodenum from adjacent inflammation, ileus of
   the transverse colon, no venous thrombosis.  2. no pulmonary embolus.
   small bilateral pleural effusions. diffuse ground glass opacities,
   areas of consolidation, could represent diffuse alveolar hemorrhage,
   ARDS, infection. 3. diffuse fatty liver.
   - bronch was done - fluid cx pnding.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2141-5-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-5-24**] 08:08 PM
   Fentanyl - [**2141-5-25**] 07:00 AM
   Midazolam (Versed) - [**2141-5-25**] 07:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-25**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.5
C (101.3
   HR: 131 (112 - 137) bpm
   BP: 119/67(86) {104/59(75) - 141/79(102)} mmHg
   RR: 20 (19 - 41) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  1,380 mL
                                                                    463 mL
   PO:
                                                                    180 mL
             TF:
                                                                    257 mL
                                                                    200 mL
   IVF:
                                                                    582 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                    850 mL
   Urine:
                                                                  5,500 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,120 mL
                                                                   -387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 220 (220 - 4,125) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 90%
   ABG: 7.39/40/128/24/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 256
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   92 K/uL
   7.6 g/dL
   104 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.5 mEq/L
   4 mg/dL
   100 mEq/L
   134 mEq/L
   24.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2141-5-23**]  03:59 AM
                             [**2141-5-23**]  12:39 PM
                             [**2141-5-23**]  07:02 PM
                             [**2141-5-24**]  04:24 AM
                             [**2141-5-24**]  09:41 AM
                             [**2141-5-24**]  10:05 AM
                             [**2141-5-24**]  02:47 PM
                             [**2141-5-24**]  11:14 PM
                             [**2141-5-24**]  11:20 PM
                             [**2141-5-25**]  04:25 AM
   WBC
   12.3
   6.0
   8.0
   Hct
   30.7
   25.8
   24.6
   24.5
   Plt
   88
   81
   92
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   TropT
   <0.01
   <0.01
   TCO2
   26
   26
   25
   Glucose
   95
   87
   98
   95
   104
   Other labs: PT / PTT / INR:11.9/34.4/1.0, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:25/69, Alk Phos / T Bili:60/1.2,
   Amylase / Lipase:/153, Differential-Neuts:86.5 %, Lymph:10.5 %,
   Mono:2.5 %, Eos:0.4 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL,
   LDH:903 IU/L, Ca++:6.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   42 YOF with EtOH abuse, hypertension, seizure disorder present with
   findings c/w pancreatitis and hypotension.
   .
   # hypoxia/ARDS
 Initially attributed to pulmonary edema.  This AM
   patient in greater distress despite having a net negative fluid balance
   and improved CXR. Worried about ARDS vs PE. CTA negative for PE, EKG
   and CE negative for MI, TTE negative for CHF, serial CXR in the setting
   of diuresis confirms ARDS. Pa02/FiO2 is 116.  The cause of her ARDS is
   either pancreatitis or infection
   - Vent Day 1 = [**5-24**], ARDSNET protocol
   - place esophageal balloon
   - f/u final CTA
   - F/u bronch cultures
   - check HIV when consentable
   - sedation is an issue
 maxed on versed
 trying haldol and
   considering ketamine if persistent
   .
   # Pancreatitis: [**Last Name (un) 1840**] score of 3 @ 48 hours = 16% mortality rate.
   APACHE II score suggests lower mortality risk ~ 3%.  Causes are
   alcohol, gallstones (unlikely given negative radiography), and elevated
   triglycerides.  Her Lipase was downtrending over three days, though
   this does not correlate with severity. Her HCT has fallen from 38 to
   25. Her respiratory failure (below), could be a complication (3^rd
   spacing with edema vs ARDS)
   - pain control with morphine
   - Follow HCT, CRP levels
   - provide IVF support
   - NJ tube placement to start enteral feeds VS TPN if patient cannot
   tolerated
   - holding Meropenem for ppx of necrotizing pancreatitis
   - serial abdominal exams
   .
   # Severe malnutrition: protein-energy component (low albumin) but
   mainly manifest in severe calcium, phosphorous deficiencies
   - TEN or TPN if cannot tolerate
   - aggressive lytes repletion
   - thiamine, folate
   .
   # Anemia: likely chronic and acute. Chronic: likely alcoholic
   myelosuppression with mixed iron/foltate deficiency (RDW > 20). Acute
   hydration and dilution with blood loss
   - guaiac stool
   - active T+S
   - low threshold to rescan abdomen for hemorrhagic conversion
   .
   # alcohol abuse: given chronic history and underlying seizure disorder
   will need to be vigilant in watching for withdrawal
   - valium per CIWA scale
   - IV MVI/thiamine/folate
   - continue to monitor for withdrawal symptoms.
   .
   # Transaminits: likely alcohol induced (AST/ALT [**3-13**]), but could also be
   NASH/[**Doctor Last Name **] overlap +/- fibrosis. If [**Doctor Last Name **], not severe given normal INR and
   bilirubin. She has fatty infiltration on CT
   - just trend for now.
   .
   # hyponatremia: hypovolemic hyponatremia given n/v, will trend; likely
   will resolve after IVF.
   - [**Hospital1 **] lytes
   - IVF support target 2-3L
   .
   # leukocytosis with bandemia: likely due to the underlying
   pancreatitis, will need to trend.
   .
   # thrombocytopenia: could be due alchohol related myelosupression,
   hemodilution given fluid, other drug effect or splenomegaly.  -
   continue to trend
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-5-24**] 09:23 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-05-25 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Increasing FiO2 requirement.
   Requiring high doses of sedation.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-5-24**] 08:08 PM
   Fentanyl - [**2141-5-25**] 07:00 AM
   Midazolam (Versed) - [**2141-5-25**] 09:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-5-25**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.6
C (103.2
   Tcurrent: 36.6
C (97.9
   HR: 133 (112 - 134) bpm
   BP: 131/71(92) {104/59(75) - 141/79(102)} mmHg
   RR: 22 (19 - 41) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  1,380 mL
                                                                    588 mL
   PO:
                                                                    180 mL
             TF:
                                                                    257 mL
                                                                    274 mL
   IVF:
                                                                    582 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                  1,850 mL
   Urine:
                                                                  5,500 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,120 mL
                                                                 -1,262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 220 (220 - 4,125) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 82
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/40/128/24/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   92 K/uL
   104 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.5 mEq/L
   4 mg/dL
   100 mEq/L
   134 mEq/L
   24.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2141-5-23**]  03:59 AM
                             [**2141-5-23**]  12:39 PM
                             [**2141-5-23**]  07:02 PM
                             [**2141-5-24**]  04:24 AM
                             [**2141-5-24**]  09:41 AM
                             [**2141-5-24**]  10:05 AM
                             [**2141-5-24**]  02:47 PM
                             [**2141-5-24**]  11:14 PM
                             [**2141-5-24**]  11:20 PM
                             [**2141-5-25**]  04:25 AM
   WBC
   12.3
   6.0
   8.0
   Hct
   30.7
   25.8
   24.6
   24.5
   Plt
   88
   81
   92
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   TropT
   <0.01
   <0.01
   TCO2
   26
   26
   25
   Glucose
   95
   87
   98
   95
   104
   Other labs: PT / PTT / INR:11.9/34.4/1.0, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:25/69, Alk Phos / T Bili:60/1.2,
   Amylase / Lipase:/153, Differential-Neuts:86.5 %, Lymph:10.5 %,
   Mono:2.5 %, Eos:0.4 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL,
   LDH:903 IU/L, Ca++:6.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   42 yof EtOH abuse, hypertension, seizure disorder present with findings
   c/w pancreatitis.
   RESPIRATORY FAILURE
 Attributed predominatly to non-cardiogenic
   pulmoanry edema (i.e. ARDS) in context of acute pancreatitis.  Continue
   mechanical ventilation, lung protective strategy, PEEP.  Consider
   esophgeal balloon.
   HYPOTENSION -- Resolved.  Atrributed to hypovolemia, reduced PO
   intake.  Concern for possible sepsis, although likely SIRS.  Monitor
   BP, maintain MAP >60 mmHg.
   PANCREATITIS -- acute, related to EtOH and/or lipidemia.  Elevated
   mortality category.  Continue current level of management (fluids, pain
   management).  Monitor amylase, lipase.  Surgery now off case.  ABD CT
   without evidence for bleeding.  Consider Meropenem empirically.
   FEVER
 attributed in part to acute pancreatitis.  Monitor closely,
   remains off antimicrobials.  Low threshold for iniating antimicrobials.
   DYSPNEA -- attributed to pulmonary edema, probable non-cardiogenic (LV
   failure).  Doubt pulmonary embolism.  Tolerating net diuresis, CXR
   improved today.   Check ECG, cardiac enzymes, cardiac echo.  Component
   of anxiety.
   HYPONATREMIA -- total body Na depleted, clinically.  Plan check serum
   osmolality, urine osmolality.  Monitor serial Na.
   ACIDOSIS -- HCO3  improved, with repletion.  Non-gap, with ABG
   consistent with metabolic acidosis.
   ANEMIA
 intially progressive, despite net negative fliud balance. No
   evidence for intraabdominal bleed.  Transfuse to maintain Hct >21.
   LACTIC ACIDOSIS -- Resolved.
   EtOH ABUSE -- chronic.  Last consumption 5 days ago, need to monitor
   for evidence of withdrawal (DTs).
   LFT abnormality
 attributed to EtOH.  Monitor.
   FLUIDS --  Marked volume resusitation.  TOlerated net diuresis (lasix)
   to treat pulmonary edema.  Monitor I/O, BP, urine output.  Need to
   balance desire to keep hypovolemic (ARDS) and sufficient intravascular
   hydration (acute pancreatitis and third spacing)
   NUTRITIONAL SUPPORT
 tolerating TF.
   ANXIETY -- continue iv benzodiazepine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2141-05-26 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 103.6
F - [**2141-5-25**] 07:00 PM
   - STarted Haldol for sedation
   - Insufficient cells for viral culture of bronch
   - BAL : negative for PJP, Legionella, AFB
   - HCt fell to 20.6, received two units of blood, high hapto and low
   bilirubin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-5-25**] 05:59 PM
   Heparin Sodium (Prophylaxis) - [**2141-5-25**] 07:53 PM
   Famotidine (Pepcid) - [**2141-5-25**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-26**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.8
C (103.6
   Tcurrent: 39.4
C (102.9
   HR: 119 (115 - 138) bpm
   BP: 113/68(85) {102/62(77) - 133/76(95)} mmHg
   RR: 27 (21 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79 kg (admission): 73.9 kg
   Height: 63 Inch
           Total In:
                                                                  3,740 mL
                                                                    952 mL
   PO:
           TF:
                                                                    738 mL
                                                                    326 mL
   IVF:
                                                                  2,274 mL
                                                                    134 mL
   Blood products:
                                                                    298 mL
                                                                    403 mL
   Total out:
                                                                  4,085 mL
                                                                  1,225 mL
   Urine:
                                                                  4,085 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -345 mL
                                                                   -273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Elevated ICP, No Spon Resp
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/46/203/25/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 406
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   90 K/uL
   9.2 g/dL
   119 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.6 mEq/L
   5 mg/dL
   101 mEq/L
   131 mEq/L
   27.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2141-5-24**]  10:05 AM
                             [**2141-5-24**]  02:47 PM
                             [**2141-5-24**]  11:14 PM
                             [**2141-5-24**]  11:20 PM
                             [**2141-5-25**]  04:25 AM
                             [**2141-5-25**]  10:22 AM
                             [**2141-5-25**]  08:49 PM
                             [**2141-5-25**]  09:57 PM
                             [**2141-5-26**]  05:03 AM
                             [**2141-5-26**]  05:14 AM
   WBC
   8.0
   12.9
   Hct
   24.6
   24.5
   21.6
   20.4
   27.6
   Plt
   92
   90
   Cr
   0.4
   0.4
   0.3
   TropT
   <0.01
   TCO2
   26
   25
   27
   27
   Glucose
   104
   107
   119
   Other labs: PT / PTT / INR:12.4/32.2/1.0, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:22/67, Alk Phos / T Bili:76/2.7,
   Amylase / Lipase:/95, Differential-Neuts:86.5 %, Lymph:10.5 %, Mono:2.5
   %, Eos:0.4 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL, LDH:843 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   42 YOF with EtOH abuse, hypertension, seizure disorder present with
   findings c/w pancreatitis and hypotension.
   .
   # hypoxia/ARDS
 Initially attributed to pulmonary edema.  This AM
   patient in greater distress despite having a net negative fluid balance
   and improved CXR. Worried about ARDS vs PE. CTA negative for PE, EKG
   and CE negative for MI, TTE negative for CHF, serial CXR in the setting
   of diuresis confirms ARDS. Pa02/FiO2 is 116.  The cause of her ARDS is
   either pancreatitis or infection. Massive improvement by [**5-26**].
   - Vent Day 1 = [**5-24**], ARDSNET protocol
   - place esophageal balloon
   - f/u final CTA
   - F/u bronch cultures
   - check HIV when consentable
   - sedation is an issue
 maxed on versed
 trying haldol and
   considering ketamine if persistent
   .
   # Pancreatitis: [**Last Name (un) 1840**] score of 3 @ 48 hours = 16% mortality rate.
   APACHE II score suggests lower mortality risk ~ 3%.  Causes are
   alcohol, gallstones (unlikely given negative radiography), and elevated
   triglycerides.  Her Lipase was downtrending over three days, though
   this does not correlate with severity. Her HCT has fallen from 38 to
   25. Her respiratory failure (below), could be a complication (3rd
   spacing with edema vs ARDS)
   - pain control with morphine
   - Follow HCT, CRP levels, not lipase
   - provide IVF support
   - NJ tube placement to start enteral feeds VS TPN if patient cannot
   tolerated
   - holding Meropenem for ppx of necrotizing pancreatitis
   - serial abdominal exams
   .
   # Severe malnutrition: protein-energy component (low albumin) but
   mainly manifest in severe calcium, phosphorous deficiencies
   - TEN or TPN if cannot tolerate
   - aggressive lytes repletion
   - thiamine, folate
   .
   # Anemia: likely chronic and acute. Chronic: likely alcoholic
   myelosuppression with mixed iron/foltate deficiency (RDW > 20). Acute
   hydration and dilution with blood loss. Blood loss over night on [**5-25**]
   is very difficult to explain in the absence of hemolysis
   - guaiac stool
   - active T+S
   - low threshold to rescan abdomen for hemorrhagic conversion
   .
   # alcohol abuse: given chronic history and underlying seizure disorder
   will need to be vigilant in watching for withdrawal
   - valium per CIWA scale
   - IV MVI/thiamine/folate
   - continue to monitor for withdrawal symptoms.
   .
   # Transaminits: likely alcohol induced (AST/ALT [**3-13**]), but could also be
   NASH/[**Doctor Last Name **] overlap +/- fibrosis. If [**Doctor Last Name **], not severe given normal INR and
   bilirubin. She has fatty infiltration on CT
   - just trend for now.
   .
   # hyponatremia: hypovolemic hyponatremia given n/v, will trend; likely
   will resolve after IVF.
   - [**Hospital1 **] lytes
   - IVF support target 2-3L
   .
   # leukocytosis with bandemia: likely due to the underlying
   pancreatitis, will need to trend.
   .
   # thrombocytopenia: could be due alchohol related myelosupression,
   hemodilution given fluid, other drug effect or splenomegaly.  -
   continue to trend
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-5-26**] 03:17 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   20 Gauge - [**2141-5-25**] 03:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-05-26 09:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Pt indicates that she is feeling better.
   Exhibited anemia, without clinical evidence for blood loss, no
   hemolysis.
   Hct responded to 2 U PRBC
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-5-25**] 05:59 PM
   Heparin Sodium (Prophylaxis) - [**2141-5-25**] 07:53 PM
   Famotidine (Pepcid) - [**2141-5-25**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: Mechanical ventilation
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2141-5-26**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.3
C (101
   HR: 120 (115 - 138) bpm
   BP: 117/69(88) {102/62(77) - 133/76(95)} mmHg
   RR: 22 (21 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79 kg (admission): 73.9 kg
   Height: 63 Inch
           Total In:
                                                                  3,740 mL
                                                                  1,123 mL
   PO:
           TF:
                                                                    738 mL
                                                                    385 mL
   IVF:
                                                                  2,274 mL
                                                                    155 mL
   Blood products:
                                                                    298 mL
                                                                    403 mL
   Total out:
                                                                  4,085 mL
                                                                  1,575 mL
   Urine:
                                                                  4,085 mL
                                                                  1,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -345 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Elevated ICP, No Spon Resp
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/46/203/25/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 406
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   90 K/uL
   119 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.6 mEq/L
   5 mg/dL
   101 mEq/L
   131 mEq/L
   27.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2141-5-24**]  10:05 AM
                             [**2141-5-24**]  02:47 PM
                             [**2141-5-24**]  11:14 PM
                             [**2141-5-24**]  11:20 PM
                             [**2141-5-25**]  04:25 AM
                             [**2141-5-25**]  10:22 AM
                             [**2141-5-25**]  08:49 PM
                             [**2141-5-25**]  09:57 PM
                             [**2141-5-26**]  05:03 AM
                             [**2141-5-26**]  05:14 AM
   WBC
   8.0
   12.9
   Hct
   24.6
   24.5
   21.6
   20.4
   27.6
   Plt
   92
   90
   Cr
   0.4
   0.4
   0.3
   TropT
   <0.01
   TCO2
   26
   25
   27
   27
   Glucose
   104
   107
   119
   Other labs: PT / PTT / INR:12.4/32.2/1.0, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:22/67, Alk Phos / T Bili:76/2.7,
   Amylase / Lipase:/95, Differential-Neuts:86.5 %, Lymph:10.5 %, Mono:2.5
   %, Eos:0.4 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL, LDH:843 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   42 yof EtOH abuse, hypertension, seizure disorder presents now with
   acute pancreatitis, complicated by ARDS. Demonstrating evidence for
   clinical improvement over past 12 hours.
   RESPIRATORY FAILURE
 Attributed predominatly to ARDS in context of
   acute pancreatitis.  Radiographic and clinical improvement.  Continue
   mechanical ventilation, lung protective strategy, PEEP.  Hold esophgeal
   balloon.
   HYPOTENSION -- Resolved.  Monitor BP, maintain MAP >60 mmHg.
   PANCREATITIS -- acute, related to EtOH and/or lipidemia.  Elevated
   mortality category.  Continue current level of management (fluid
   mangement, pain management).  Monitor amylase, lipase.  Surgery now off
   case.  ABD CT without evidence for bleeding.  Consider Meropenem
   empirically esp if evidence for necrotizing pancreatitis.
   FEVER
 attributed in part to acute pancreatitis.  Monitor closely,
   remains off antimicrobials.  Low threshold for iniating antimicrobials.
   HYPONATREMIA -- total body Na depleted, clinically.  Plan check serum
   osmolality, urine osmolality.  Monitor serial Na.
   ACIDOSIS -- HCO3  improved, with repletion.
   ANEMIA
 intially progressive, despite net negative fliud balance. No
   evidence for intraabdominal bleed.  Transfuse to maintain Hct >21.
   LACTIC ACIDOSIS -- Resolved.
   EtOH ABUSE -- chronic.  Last consumption 5 days ago, need to monitor
   for evidence of withdrawal (DTs).
   LFT abnormality
 attributed to EtOH.  Monitor.
   LDH ELEVATION -- attributed in part to lung injury. Monitor.
   FLUIDS --  Marked volume resusitation.  Tolerated net diuresis (lasix)
   to treat pulmonary edema.  Monitor I/O, BP, urine output.  Need to
   balance desire to keep hypovolemic (ARDS) and sufficient intravascular
   hydration (acute pancreatitis and third spacing).
   NUTRITIONAL SUPPORT
 tolerating TF.
   ANXIETY -- continue iv benzodiazepine.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-5-26**] 03:17 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   20 Gauge - [**2141-5-25**] 03:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Meeting with family, including husband.
   Updated medical condition, answered all questions.
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2141-05-29 08:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.7
F - [**2141-5-28**] 08:00 AM
   - CXR --> on rounds, we read it as Multifocal PNA and started
   VANC/CEFEPIME + Cipro to cover pseudomonas/MRSA. Rads raised the
   question of TRALI.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-5-28**] 10:00 AM
   Vancomycin - [**2141-5-28**] 07:46 PM
   Ciprofloxacin - [**2141-5-28**] 11:51 PM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-5-28**] 07:47 PM
   Heparin Sodium (Prophylaxis) - [**2141-5-29**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-29**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.8
C (103.7
   Tcurrent: 39.6
C (103.3
   HR: 116 (104 - 134) bpm
   BP: 117/68(89) {117/68(89) - 154/85(111)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.2 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  4,256 mL
                                                                    823 mL
   PO:
             TF:
                                                                  1,496 mL
                                                                    468 mL
   IVF:
                                                                  1,880 mL
                                                                    155 mL
   Blood products:
                                                                    320 mL
   Total out:
                                                                  2,425 mL
                                                                  1,680 mL
   Urine:
                                                                  2,425 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,831 mL
                                                                   -857 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/42/87.[**Numeric Identifier 274**]/26/4
   Ve: 10.7 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   8.9 g/dL
   127 mg/dL
   0.3 mg/dL
   26 mEq/L
   5.2 mEq/L
   9 mg/dL
   97 mEq/L
   131 mEq/L
   28.6 %
   15.1 K/uL
        [image002.jpg]
                             [**2141-5-27**]  05:37 AM
                             [**2141-5-27**]  03:00 PM
                             [**2141-5-27**]  03:55 PM
                             [**2141-5-27**]  10:09 PM
                             [**2141-5-27**]  10:21 PM
                             [**2141-5-28**]  04:31 AM
                             [**2141-5-28**]  04:45 AM
                             [**2141-5-28**]  02:45 PM
                             [**2141-5-29**]  04:51 AM
                             [**2141-5-29**]  05:07 AM
   WBC
   15.6
   15.1
   Hct
   25.4
   23.8
   27.7
   26.8
   28.6
   Plt
   105
   121
   Cr
   0.4
   0.3
   0.3
   TCO2
   28
   27
   29
   31
   30
   Glucose
   115
   125
   127
   Other labs: PT / PTT / INR:11.8/29.4/1.0, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:22/56, Alk Phos / T Bili:88/0.7,
   Amylase / Lipase:/95, Differential-Neuts:86.5 %, Lymph:10.5 %, Mono:2.5
   %, Eos:0.4 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL, LDH:636 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   42 YO F with EtOH abuse, hypertension, seizure disorder present with
   findings c/w pancreatitis and hypotension.
   .
   # hypoxia/ARDS
 Initially attributed to pulmonary edema.  CTA negative
   for PE, EKG and CE negative for MI, TTE negative for CHF, serial CXR in
   the setting of diuresis confirms ARDS. Initial Pa02/FiO2 was 116.  The
   cause of her ARDS is either pancreatitis or infection. Massive
   improvement by [**5-26**].  Subsequently developed fever worrisome for PNA.
   IBW = 53.6 kg.
   - PaO2/FiO2 = 169 today; try to lower Vt if possible as 6 cc/kg = 320
   cc
   - Vent Day 1 = [**5-24**], ARDSNET protocol
   - on vanco/cefepime/cipro (day 1 = [**5-28**])
   - sputum cx pos for oropharyngeal flora
   - follow compliance, Pa/FiO2
   - change vent to pressure support, wean down sedation.
   .
   # Severe pancreatitis: [**Last Name (un) 1840**] score of 3 @ 48 hours = 16% mortality
   rate.  APACHE II score suggests lower mortality risk ~ 3%.  Causes are
   alcohol, gallstones (unlikely given negative radiography), and elevated
   triglycerides.  Lipase rapidly downtrended, though this does not
   correlate with severity. Her HCT has fallen from 38 to 25.  Her
   respiratory failure (below), could be a complication (3rd spacing with
   edema vs ARDS).
   - pain control with fentanyl
   - Follow HCT, CRP levels, not lipase
   - provide IVF support
   - enteral feeding with NJ tube
   - holding Meropenem for ppx of necrotizing pancreatitis
   - serial abdominal exams
   .
   # UTI: fever noted and found to have a dirty UA, likely UTI.  UCx grew
   out E. coli.
   - resend UA/UCx
   - change foley
   - empiric treat with ciproflox
   .
   # severe malnutrition: protein-energy component (low albumin) but
   mainly manifest in severe calcium, phosphorous deficiencies
   - aggressive lytes repletion
   - thiamine, folate
   - enteric feed
   .
   # anemia: likely chronic and acute. Chronic: likely alcoholic
   myelosuppression with mixed iron/foltate deficiency (RDW > 20). Acute
   hydration and dilution with blood loss. Hct drop overnight on [**5-25**] is
   unclear as there was no evidence of blood loss or  hemolysis.
   - guaiac stool (need bowel regimen)
   - active T+S; transfuse Hct < 21; trend Hct [**Hospital1 **]
   - low threshold to rescan abdomen for hemorrhagic conversion
   .
   # alcohol abuse
   - continue MVI/thiamine/folate
   .
   # transaminitis: likely alcohol induced (AST/ALT [**3-13**]), but could also
   be NASH/[**Doctor Last Name **] overlap +/- fibrosis. If [**Doctor Last Name **], not severe given normal INR
   and bilirubin. She has fatty infiltration on CT.
   - trend
   .
   # hyponatremia
 Persists after initial IVF rescue.  Remains stable.
   - trend
   .
   # thrombocytopenia: could be due to alcohol related myelosuppression,
   hemodilution given fluid, other drug effect or splenomegaly.
   - continue to trend
   .
   FEN: IVF, replete electrolytes, enteric feed, bowel regimen
   Prophylaxis: Subcutaneous heparin, H2 blocker
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   20 Gauge - [**2141-5-25**] 03:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-05-29 11:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   alcoholic pancreatitis, ARDS, intubated
   24 Hour Events:
   Fever 103.7, persistently febrile
   Positive sputum cx
   Concern for VAP vs trali vs residual [**Doctor Last Name 2**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-5-28**] 10:00 AM
   Vancomycin - [**2141-5-28**] 07:46 PM
   Ciprofloxacin - [**2141-5-28**] 11:51 PM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-5-28**] 07:47 PM
   Heparin Sodium (Prophylaxis) - [**2141-5-29**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-29**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.6
C (103.3
   Tcurrent: 38
C (100.4
   HR: 116 (104 - 128) bpm
   BP: 117/68(89) {117/68(89) - 154/85(111)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.2 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  4,256 mL
                                                                    884 mL
   PO:
             TF:
                                                                  1,496 mL
                                                                    468 mL
   IVF:
                                                                  1,880 mL
                                                                    216 mL
   Blood products:
                                                                    320 mL
   Total out:
                                                                  2,425 mL
                                                                  1,680 mL
   Urine:
                                                                  2,425 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,831 mL
                                                                   -796 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/42/87.[**Numeric Identifier 274**]/26/4
   Ve: 10 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   121 K/uL
   127 mg/dL
   0.3 mg/dL
   26 mEq/L
   5.2 mEq/L
   9 mg/dL
   97 mEq/L
   131 mEq/L
   28.6 %
   15.1 K/uL
        [image002.jpg]
                             [**2141-5-27**]  05:37 AM
                             [**2141-5-27**]  03:00 PM
                             [**2141-5-27**]  03:55 PM
                             [**2141-5-27**]  10:09 PM
                             [**2141-5-27**]  10:21 PM
                             [**2141-5-28**]  04:31 AM
                             [**2141-5-28**]  04:45 AM
                             [**2141-5-28**]  02:45 PM
                             [**2141-5-29**]  04:51 AM
                             [**2141-5-29**]  05:07 AM
   WBC
   15.6
   15.1
   Hct
   25.4
   23.8
   27.7
   26.8
   28.6
   Plt
   105
   121
   Cr
   0.4
   0.3
   0.3
   TCO2
   28
   27
   29
   31
   30
   Glucose
   115
   125
   127
   Other labs: PT / PTT / INR:11.8/29.4/1.0, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:22/56, Alk Phos / T Bili:88/0.7,
   Amylase / Lipase:/95, Differential-Neuts:86.5 %, Lymph:10.5 %, Mono:2.5
   %, Eos:0.4 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL, LDH:636 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Acute respiratory failure
   - sputum cx normal flora, persistent fever
   - some concern for vap, was started vanc/cefepime yest, can d/c vanc
   today, consider d/c cefepime tomorrow
   - liberalize tidal volume, pressure support trial if tolerated
   Acute pancreatitis
   E coli UTI
 on cipro, f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 206**], foley changed since
   Leukocytosis/persistent fever
 unclear source
   Hypocalcemia/Hypophos
 phos being repleted
   Alcohol withdrawal
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   20 Gauge - [**2141-5-25**] 03:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  husband updated
   [**Name2 (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2141-05-30 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-5-29**] 08:30 PM
 FEVER - 102.8
F - [**2141-5-30**] 02:00 AM
   - UCx: pansensitive E. coli
   - sputum cx: H. influenzae
   - took off vanc, still on cefepime/cipro
   - increased tidal volumes as she was getting tachypneic on restricted
   volumes and ARDS seems to be getting better
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-5-28**] 10:00 AM
   Vancomycin - [**2141-5-28**] 07:46 PM
   Ciprofloxacin - [**2141-5-30**] 12:30 AM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-5-29**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2141-5-29**] 10:13 PM
   Midazolam (Versed) - [**2141-5-30**] 04:55 AM
   Fentanyl - [**2141-5-30**] 05:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-30**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.5
C (99.5
   HR: 115 (112 - 131) bpm
   BP: 116/71(91) {112/67(87) - 152/108(177)} mmHg
   RR: 22 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.2 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  2,591 mL
                                                                  1,028 mL
   PO:
             TF:
                                                                  1,457 mL
                                                                    442 mL
   IVF:
                                                                    604 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                  1,160 mL
   Urine:
                                                                  3,485 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -894 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (400 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 15 cmH2O
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.41/43/163/26/2
   Ve: 12.1 L/min
   PaO2 / FiO2: 408
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   8.2 g/dL
   165 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.7 mEq/L
   10 mg/dL
   100 mEq/L
   135 mEq/L
   26.1 %
   12.6 K/uL
        [image002.jpg]
                             [**2141-5-27**]  10:21 PM
                             [**2141-5-28**]  04:31 AM
                             [**2141-5-28**]  04:45 AM
                             [**2141-5-28**]  02:45 PM
                             [**2141-5-29**]  04:51 AM
                             [**2141-5-29**]  05:07 AM
                             [**2141-5-29**]  08:16 PM
                             [**2141-5-29**]  08:39 PM
                             [**2141-5-30**]  04:16 AM
                             [**2141-5-30**]  05:41 AM
   WBC
   15.6
   15.1
   12.6
   Hct
   27.7
   26.8
   28.6
   26.1
   Plt
   105
   121
   144
   Cr
   0.4
   0.3
   0.3
   0.3
   0.4
   TCO2
   29
   31
   30
   27
   28
   Glucose
   115
   125
   127
   165
   Other labs: PT / PTT / INR:11.8/29.4/1.0, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:22/56, Alk Phos / T Bili:88/0.7,
   Amylase / Lipase:/95, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:10.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL,
   LDH:636 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   42 YO F with EtOH abuse, hypertension, seizure disorder present with
   findings c/w pancreatitis and hypotension.
   .
   # hypoxia/ARDS/Multifocal pneumonia
 Initially attributed to pulmonary
   edema.  CTA negative for PE, EKG and CE negative for MI, TTE negative
   for CHF, serial CXR in the setting of diuresis confirms ARDS. Initial
   Pa02/FiO2 was 116.  The cause of her ARDS is either pancreatitis or
   infection. Massive improvement by [**5-26**].  Subsequently developed fever
   worrisome for PNA. IBW = 53.6 kg.
   - Vent Day 1 = [**5-24**], ARDSNET protocol, attempt at weaning as ARDS and
   Multifocal pna are improving
   - on cefepime/cipro (day 1 = [**5-28**]), vanco d/c
d on [**5-29**]
   - sputum cx pos for oropharyngeal flora and H.Flu (f/u from [**5-26**] and
   [**5-28**])
   - follow compliance, Pa/FiO2
   - change vent to pressure support, wean down sedation.
   .
   # Severe pancreatitis: [**Last Name (un) 1840**] score of 3 @ 48 hours = 16% mortality
   rate.  APACHE II score suggests lower mortality risk ~ 3%.  Causes are
   alcohol, gallstones (unlikely given negative radiography), and elevated
   triglycerides.  Lipase rapidly downtrended, though this does not
   correlate with severity. Her HCT has fallen from 38 to 25.  Her
   respiratory failure (below), could be a complication (3rd spacing with
   edema vs ARDS).
   - pain control with fentanyl
   - Follow HCT, CRP levels
   - provide IVF support
   - enteral feeding with NJ tube
   - holding Meropenem for ppx of necrotizing pancreatitis
   - serial abdominal exams
   .
   # UTI: fever noted and found to have a dirty UA, likely UTI.  UCx grew
   out E. coli.
   - f/u UA/UCx
   - empiric treat with ciproflox
   .
   # severe malnutrition: protein-energy component (low albumin) but
   mainly manifest in severe calcium, phosphorous deficiencies
   - aggressive lytes repletion
   - thiamine, folate
   - enteric feed
   .
   # anemia: likely chronic and acute. Chronic: likely alcoholic
   myelosuppression with mixed iron/foltate deficiency (RDW > 20). Acute
   hydration and dilution with blood loss. Hct drop overnight on [**5-25**] is
   unclear as there was no evidence of blood loss or  hemolysis.
   - guaiac stool (need bowel regimen)
   - active T+S; transfuse Hct < 21; trend Hct [**Hospital1 **]
   - low threshold to rescan abdomen for hemorrhagic conversion
   .
   # alcohol abuse
   - continue MVI/thiamine/folate
   .
   # transaminitis: likely alcohol induced (AST/ALT [**3-13**]), but could also
   be NASH/[**Doctor Last Name **] overlap +/- fibrosis. If [**Doctor Last Name **], not severe given normal INR
   and bilirubin. She has fatty infiltration on CT.
   - trend
   .
   # hyponatremia
 Persists after initial IVF rescue.  Remains stable.
   Resolved
   .
   # thrombocytopenia: could be due to alcohol related myelosuppression,
   hemodilution given fluid, other drug effect or splenomegaly.
   - continue to trend
   .
   FEN: IVF, replete electrolytes, enteric feed, bowel regimen
   Prophylaxis: Subcutaneous heparin, H2 blocker
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-5-30**] 03:22 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   20 Gauge - [**2141-5-25**] 03:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-05-30 14:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Limited tolerance for SBT (anxiety, tachcardia, tachypnea).
   Sedate.  Opens eyes to voice, but limited attention.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-5-28**] 07:46 PM
   Cefipime - [**2141-5-30**] 07:42 AM
   Ciprofloxacin - [**2141-5-30**] 10:33 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-5-30**] 07:42 AM
   Famotidine (Pepcid) - [**2141-5-30**] 10:33 AM
   Fentanyl - [**2141-5-30**] 01:54 PM
   Midazolam (Versed) - [**2141-5-30**] 01:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-5-30**] 02:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.2
C (99
   HR: 120 (112 - 135) bpm
   BP: 136/85(107) {112/68(87) - 191/113(177)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.2 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  2,591 mL
                                                                  1,673 mL
   PO:
             TF:
                                                                  1,457 mL
                                                                    502 mL
   IVF:
                                                                    604 mL
                                                                    771 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                  1,760 mL
   Urine:
                                                                  3,485 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -894 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 650 (500 - 650) mL
   Vt (Spontaneous): 0 (0 - 300) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.45/36/161/26/2
   Ve: 11.5 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   144 K/uL
   165 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.7 mEq/L
   10 mg/dL
   100 mEq/L
   135 mEq/L
   26.1 %
   12.6 K/uL
        [image002.jpg]
                             [**2141-5-28**]  04:31 AM
                             [**2141-5-28**]  04:45 AM
                             [**2141-5-28**]  02:45 PM
                             [**2141-5-29**]  04:51 AM
                             [**2141-5-29**]  05:07 AM
                             [**2141-5-29**]  08:16 PM
                             [**2141-5-29**]  08:39 PM
                             [**2141-5-30**]  04:16 AM
                             [**2141-5-30**]  05:41 AM
                             [**2141-5-30**]  01:11 PM
   WBC
   15.6
   15.1
   12.6
   Hct
   27.7
   26.8
   28.6
   26.1
   Plt
   105
   121
   144
   Cr
   0.4
   0.3
   0.3
   0.3
   0.4
   TCO2
   31
   30
   27
   28
   26
   Glucose
   115
   125
   127
   165
   Other labs: PT / PTT / INR:11.8/29.4/1.0, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:22/56, Alk Phos / T Bili:88/0.7,
   Amylase / Lipase:/95, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:10.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL,
   LDH:636 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   42 yof EtOH abuse, hypertension, seizure disorder presents now with
   acute pancreatitis, complicated by ARDS. Continues to demonstrate
   evidence for clinical improvement.
   RESPIRATORY FAILURE
 Attributed predominatly to ARDS in context of
   acute pancreatitis.  Radiographic and clinical improvement last week,
   but now with evidence for pneumonia (probable VAP).  Continue
   mechanical ventilation, lung protective strategy, PEEP.  Continue
   antimicrobials.  Pneumonia likely impeding progress for SBT and
   extubation.
   HYPOTENSION -- Resolved.  Monitor BP, maintain MAP >60 mmHg.
   PANCREATITIS -- acute, related to EtOH and/or lipidemia.  Continue
   current level of management (fluid mangement, pain management).
   Monitor amylase, lipase.  Surgery now off case.  ABD CT without
   evidence for bleeding.  Consider Meropenem empirically esp if evidence
   for necrotizing pancreatitis.
   FEVER
 attributed in part to acute pancreatitis.  Monitor closely,
   remains off antimicrobials.  Low threshold for iniating antimicrobials.
   HYPONATREMIA -- total body Na depleted, clinically.  Plan check serum
   osmolality, urine osmolality.  Monitor serial Na.
   ACIDOSIS -- HCO3  improved, with repletion.
   ANEMIA
 intially progressive, despite net negative fliud balance. No
   evidence for intraabdominal bleed.  Transfuse to maintain Hct >21.
   LACTIC ACIDOSIS -- Resolved.
   EtOH ABUSE -- chronic.  Last consumption 5 days ago, need to monitor
   for evidence of withdrawal (DTs).
   LFT abnormality
 attributed to EtOH.  Monitor.
   LDH ELEVATION -- attributed in part to lung injury. Monitor.
   FLUIDS --  Marked volume resusitation.  Tolerated net diuresis (lasix)
   to treat pulmonary edema.  Monitor I/O, BP, urine output.  Need to
   balance desire to keep hypovolemic (ARDS) and sufficient intravascular
   hydration (acute pancreatitis and third spacing).
   NUTRITIONAL SUPPORT
 tolerating TF.
   ANXIETY -- continue iv benzodiazepine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   20 Gauge - [**2141-5-25**] 03:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-05-31 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - H flu continued on cipro, d/c cefepime.
   - attempted to decrease sedation/vent, pt did not tolerate, thick white
   secretions noted.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-5-28**] 07:46 PM
   Cefipime - [**2141-5-30**] 07:42 AM
   Ciprofloxacin - [**2141-5-31**] 12:01 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-5-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-5-30**] 09:28 PM
   Midazolam (Versed) - [**2141-5-31**] 05:00 AM
   Fentanyl - [**2141-5-31**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-31**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.6
C (103.3
   HR: 116 (96 - 135) bpm
   BP: 114/73(91) {103/61(77) - 191/113(143)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  2,330 mL
                                                                    984 mL
   PO:
             TF:
                                                                    802 mL
                                                                    445 mL
   IVF:
                                                                  1,008 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                    510 mL
   Urine:
                                                                  2,820 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                    474 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 650 (500 - 650) mL
   Vt (Spontaneous): 0 (0 - 300) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   Compliance: 29.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/36/161/25/2
   Ve: 11.7 L/min
   PaO2 / FiO2: 403
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   8.2 g/dL
   223 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.7 mEq/L
   10 mg/dL
   94 mEq/L
   128 mEq/L
   25.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2141-5-28**]  04:45 AM
                             [**2141-5-28**]  02:45 PM
                             [**2141-5-29**]  04:51 AM
                             [**2141-5-29**]  05:07 AM
                             [**2141-5-29**]  08:16 PM
                             [**2141-5-29**]  08:39 PM
                             [**2141-5-30**]  04:16 AM
                             [**2141-5-30**]  05:41 AM
                             [**2141-5-30**]  01:11 PM
                             [**2141-5-31**]  04:35 AM
   WBC
   15.1
   12.6
   13.7
   Hct
   26.8
   28.6
   26.1
   25.7
   Plt
   121
   144
   174
   Cr
   0.3
   0.3
   0.3
   0.4
   0.4
   TCO2
   31
   30
   27
   28
   26
   Glucose
   125
   127
   165
   223
   Other labs: PT / PTT / INR:12.6/24.7/1.1, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:107/98, Alk Phos / T Bili:88/0.7,
   Amylase / Lipase:/225, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.5 g/dL, LDH:636 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   42 YO F with EtOH abuse, hypertension, seizure disorder present with
   findings c/w pancreatitis and hypotension.
   .
   # hypoxia/ARDS/Multifocal pneumonia
 Initially attributed to pulmonary
   edema.  CTA negative for PE, EKG and CE negative for MI, TTE negative
   for CHF, serial CXR in the setting of diuresis confirms ARDS. Initial
   Pa02/FiO2 was 116.  The cause of her ARDS is either pancreatitis or
   infection. Massive improvement by [**5-26**].  Subsequently developed fever
   worrisome for PNA. IBW = 53.6 kg.
   - Vent Day 1 = [**5-24**], weaned from ARDSNET protocol, attempt at weaning
   as ARDS and Multifocal pna are improving
   - on cipro (day 1 = [**5-28**]), vanco d/c
d on [**5-29**], cefepime d/c
d on [**5-30**]
   - sputum cx pos for oropharyngeal flora and H.Flu (f/u from [**5-26**] and
   [**5-28**])
   - follow compliance, Pa/FiO2
   - change vent to pressure support, wean down sedation, aim for
   extubation tomorrow.
   .
   # Severe pancreatitis: [**Last Name (un) 1840**] score of 3 @ 48 hours = 16% mortality
   rate.  APACHE II score suggests lower mortality risk ~ 3%.  Causes are
   alcohol, gallstones (unlikely given negative radiography), and elevated
   triglycerides.  Lipase rapidly downtrended, though this does not
   correlate with severity. Her HCT has fallen from 38 to 25.  Her
   respiratory failure (below), could be a complication (3rd spacing with
   edema vs ARDS).
   - enteral feeding with NJ tube
 clogged tube today. [**Month (only) 11**] have been too
   high up.
   - start parenteral feeding while TF are clogged.
   - serial abdominal exams
   - CT abd with pancreas protocol to eval interval progression
   - holding Meropenem for ppx of necrotizing pancreatitis
   - pain control with fentanyl
   - Follow HCT, CRP levels
   - provide IVF support
   .
   # Erythema surrounding A-line insertion site.  Blood pressures have
   been stable.
   - d/c A-line today and culture tip
   .
   # transaminitis: on admission, likely alcohol induced (AST/ALT [**3-13**]),
   but could also be NASH/[**Doctor Last Name **] overlap +/- fibrosis. If [**Doctor Last Name **], not severe
   given normal INR and bilirubin. She has fatty infiltration on CT. On
   [**5-31**] had bump to 100 ALT/90 AST.
   - trend
   - ct abd/pelvis
   .
   # UTI: fever noted and found to have a dirty UA, likely UTI.  UCx grew
   out E. coli.
   - f/u UA/UCx
   - empiric treat with ciproflox
   .
   # severe malnutrition: protein-energy component (low albumin) but
   mainly manifest in severe calcium, phosphorous deficiencies
   - aggressive lytes repletion
   - thiamine, folate
   - enteric feed
   .
   # anemia: likely chronic and acute. Chronic: likely alcoholic
   myelosuppression with mixed iron/foltate deficiency (RDW > 20). Acute
   hydration and dilution with blood loss. Hct drop overnight on [**5-25**] is
   unclear as there was no evidence of blood loss or  hemolysis.
   - guaiac stool (need bowel regimen)
   - active T+S; transfuse Hct < 21; trend Hct [**Hospital1 **]
   - low threshold to rescan abdomen for hemorrhagic conversion
   .
   # alcohol abuse
   - continue MVI/thiamine/folate
   .
   .
   # hyponatremia
 Persists after initial IVF rescue.
   -check urine lytes, osms
   .
   # thrombocytopenia: could be due to alcohol related myelosuppression,
   hemodilution given fluid, other drug effect or splenomegaly.
   - continue to trend
   .
   FEN: IVF, replete electrolytes, enteric feed, bowel regimen
   Prophylaxis: Subcutaneous heparin, H2 blocker
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-5-30**] 07:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-05-31 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   More awake this AM, appropriate.
   Feeding tube clogged.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-5-28**] 07:46 PM
   Cefipime - [**2141-5-30**] 07:42 AM
   Ciprofloxacin - [**2141-5-31**] 12:01 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-5-31**] 05:00 AM
   Fentanyl - [**2141-5-31**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-5-31**] 07:59 AM
   Famotidine (Pepcid) - [**2141-5-31**] 08:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-5-31**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39.6
C (103.3
   Tcurrent: 38
C (100.4
   HR: 116 (96 - 135) bpm
   BP: 107/90(99) {103/61(77) - 191/113(143)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  2,330 mL
                                                                  1,295 mL
   PO:
             TF:
                                                                    802 mL
                                                                    640 mL
   IVF:
                                                                  1,008 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                    610 mL
   Urine:
                                                                  2,820 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                    685 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 0 (0 - 300) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 32.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/36/161/25/2
   Ve: 12.5 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   174 K/uL
   223 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.7 mEq/L
   10 mg/dL
   94 mEq/L
   128 mEq/L
   25.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2141-5-28**]  04:45 AM
                             [**2141-5-28**]  02:45 PM
                             [**2141-5-29**]  04:51 AM
                             [**2141-5-29**]  05:07 AM
                             [**2141-5-29**]  08:16 PM
                             [**2141-5-29**]  08:39 PM
                             [**2141-5-30**]  04:16 AM
                             [**2141-5-30**]  05:41 AM
                             [**2141-5-30**]  01:11 PM
                             [**2141-5-31**]  04:35 AM
   WBC
   15.1
   12.6
   13.7
   Hct
   26.8
   28.6
   26.1
   25.7
   Plt
   121
   144
   174
   Cr
   0.3
   0.3
   0.3
   0.4
   0.4
   TCO2
   31
   30
   27
   28
   26
   Glucose
   125
   127
   165
   223
   Other labs: PT / PTT / INR:12.6/24.7/1.1, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:107/98, Alk Phos / T Bili:88/0.4,
   Amylase / Lipase:/225, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.5 g/dL, LDH:636 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Imaging: CXR ([**2141-5-31**]) plate-like atalectasis at bases.
   Assessment and Plan
   42 yof EtOH abuse, hypertension, seizure disorder presents now with
   acute pancreatitis, complicated by ARDS. Continues to demonstrate
   evidence for clinical improvement.
   RESPIRATORY FAILURE
 Attributed predominatly to ARDS in context of
   acute pancreatitis.  Radiographic and clinical improvement last week,
   but now with evidence for pneumonia (probable VAP).  Continue
   mechanical ventilation, lung protective strategy, PEEP.  Continue
   antimicrobials.  Pneumonia responding. Continue to progress to SBT and
   extubation.
   PANCREATITIS -- acute, related to EtOH and/or lipidemia.  Continue
   current level of management (fluid mangement, pain management).
   Monitor amylase, lipase.  Surgery now off case.  Iniital ABD CT without
   evidence for bleeding.  Consider Meropenem empirically esp if evidence
   for necrotizing pancreatitis.
   FEVER
 attributed in part to acute pancreatitis.  Monitor closely,
   remains off antimicrobials.  Low threshold for iniating
   antimicrobials.  Low threshold for repeat Abd CT.
   HYPONATREMIA -- total body depleted.  Possible SIADH. Possible
   drug-effect. Check serum and urine osmolality, electrolytes.
   HYPERGLYCEMIA -- may in part reflect pancreatic inflammation.  Monitor
   glucose, maintain <150
   ANEMIA
 intially progressive, despite net negative fliud balance. No
   evidence for intraabdominal bleed.  Transfuse to maintain Hct >21.
   EtOH ABUSE -- chronic.  Last consumption 5 days PTA, need to monitor
   for evidence of withdrawal (DTs) -- now less likely for DTs.
   LFT abnormality
 attributed to EtOH.  Monitor.
   LDH ELEVATION -- attributed in part to lung injury. Monitor.
   FLUIDS --  Marked volume resusitation.  Tolerated net diuresis (lasix)
   to treat pulmonary edema.  Monitor I/O, BP, urine output.  Need to
   balance desire to keep hypovolemic (ARDS) and sufficient intravascular
   hydration (acute pancreatitis and third spacing).
   NUTRITIONAL SUPPORT
 tolerating TF, but need to unclog or repeat
   feeding tube placement.  [**Month (only) 11**] require TPN.
   ANXIETY -- continue iv benzodiazepine.  Hope to continue to taper.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2141-5-30**] 07:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   Arterial Line - [**2141-5-24**] 11:03 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-06-01 08:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-5-31**] 12:26 PM
   - Off of sedation became tachycardic
   - restarted versed at low dose and gave her haldol
   - NJT clogged, dc'd
   - OGT placed, CXR for placement
   - Urine Lytes: FeNa 0.7%
   - Hyponatremia, serum osm 272 and Urine Osm 555 --> ~ SIADH.
   - Maculopapular rash on back/buttocks --> looks like drug rash
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-5-30**] 07:42 AM
   Ciprofloxacin - [**2141-6-1**] 12:03 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-5-31**] 07:59 AM
   Famotidine (Pepcid) - [**2141-5-31**] 08:53 AM
   Haloperidol (Haldol) - [**2141-5-31**] 01:12 PM
   Midazolam (Versed) - [**2141-5-31**] 04:23 PM
   Fentanyl - [**2141-6-1**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-1**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.3
   HR: 98 (98 - 140) bpm
   BP: 110/65(76) {101/65(76) - 139/81(93)} mmHg
   RR: 25 (15 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  1,636 mL
                                                                    643 mL
   PO:
             TF:
                                                                    484 mL
   IVF:
                                                                    840 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    440 mL
   Urine:
                                                                  2,090 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -454 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 473 (0 - 577) mL
   PS : 18 cmH2O
   RR (Set): 18
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 25 cmH2O
   Compliance: 32.5 cmH2O/mL
   SpO2: 98%
   ABG: ///22/
   Ve: 13.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   8.0 g/dL
   162 mg/dL
   0.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   7 mg/dL
   98 mEq/L
   129 mEq/L
   24.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2141-5-28**]  02:45 PM
                             [**2141-5-29**]  04:51 AM
                             [**2141-5-29**]  05:07 AM
                             [**2141-5-29**]  08:16 PM
                             [**2141-5-29**]  08:39 PM
                             [**2141-5-30**]  04:16 AM
                             [**2141-5-30**]  05:41 AM
                             [**2141-5-30**]  01:11 PM
                             [**2141-5-31**]  04:35 AM
                             [**2141-6-1**]  04:38 AM
   WBC
   15.1
   12.6
   13.7
   14.9
   Hct
   26.8
   28.6
   26.1
   25.7
   24.3
   Plt
   121
   144
   174
   220
   Cr
   0.3
   0.3
   0.3
   0.4
   0.4
   0.3
   TCO2
   30
   27
   28
   26
   Glucose
   125
   127
   165
   223
   162
   Other labs: PT / PTT / INR:12.6/24.7/1.1, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:127/139, Alk Phos / T Bili:99/0.4,
   Amylase / Lipase:/225, Differential-Neuts:92.0 %, Band:1.0 %, Lymph:6.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL,
   LDH:382 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   CT abdomen/pelvis
   1. In this patient with acute pancreatitis, the extensive
   peripancreatic
   fluid in the anterior pararenal space extending inferiorly into the
   pelvis,
   appear similar in size and appearance compared to the prior study. No
   vascular complications are seen. No evidence of pancreatic necrosis.
   2. Improvement in the edema/ARDS and consolidative changes in both lung
   bases.
   3. Mild narrowing of the origin of the celiac trunk, likely due to
   compression by the median arcuate ligament.
   4. Multiple uterine fibroids.
   5. Previously post-pyloric feeding tube has withdrawn, with tip now
   within
   the stomach.
   Assessment and Plan
   42 YO F with EtOH abuse, hypertension, seizure disorder present with
   findings c/w pancreatitis and hypotension.
   .
   # hypoxia/ARDS/Multifocal pneumonia
 Initially attributed to pulmonary
   edema.  CTA negative for PE, EKG and CE negative for MI, TTE negative
   for CHF, serial CXR in the setting of diuresis confirms ARDS. Initial
   Pa02/FiO2 was 116.  The cause of her ARDS is either pancreatitis or
   infection. Massive improvement by [**5-26**].  Subsequently developed fever
   worrisome for PNA. IBW = 53.6 kg.
   - Vent Day 1 = [**5-24**], weaned from ARDSNET protocol, attempt at weaning
   as ARDS and Multifocal pna are improving
   - on cipro (day 1 = [**5-28**]), vanco d/c
d on [**5-29**], cefepime d/c
d on [**5-30**]
   - sputum cx pos for oropharyngeal flora and H.Flu (f/u from [**5-26**] and
   [**5-28**])
   - follow compliance, Pa/FiO2
   - change vent to pressure support, wean down sedation, aim for
   extubation tomorrow.
   .
   # Severe pancreatitis: [**Last Name (un) 1840**] score of 3 @ 48 hours = 16% mortality
   rate.  APACHE II score suggests lower mortality risk ~ 3%.  Causes are
   alcohol, gallstones (unlikely given negative radiography), and elevated
   triglycerides.  Lipase rapidly downtrended, though this does not
   correlate with severity. Her HCT has fallen from 38 to 25.  Her
   respiratory failure (below), could be a complication (3rd spacing with
   edema vs ARDS).
   - enteral feeding with NJ tube
 clogged tube today. [**Month (only) 11**] have been too
   high up.
   - start parenteral feeding while TF are clogged.
   - serial abdominal exams
   - CT abd with pancreas protocol to eval interval progression
   - holding Meropenem for ppx of necrotizing pancreatitis
   - pain control with fentanyl
   - Follow HCT, CRP levels
   - provide IVF support
   .
   # Erythema surrounding A-line insertion site.  Blood pressures have
   been stable.
   - d/c A-line today and culture tip
   .
   # transaminitis: on admission, likely alcohol induced (AST/ALT [**3-13**]),
   but could also be NASH/[**Doctor Last Name **] overlap +/- fibrosis. If [**Doctor Last Name **], not severe
   given normal INR and bilirubin. She has fatty infiltration on CT. On
   [**5-31**] had bump to 100 ALT/90 AST.
   - trend
   .
   # UTI: [**3-14**] pansensitive E. coli.
   - currently on ciprofloxacin
   .
   # severe malnutrition: protein-energy component (low albumin) but
   mainly manifest in severe calcium, phosphorous deficiencies
   - aggressive lytes repletion
   - thiamine, folate
   - enteric feed
   .
   # anemia: likely chronic and acute. Chronic: likely alcoholic
   myelosuppression with mixed iron/foltate deficiency (RDW > 20). Acute
   hydration and dilution with blood loss. Hct drop overnight on [**5-25**] is
   unclear as there was no evidence of blood loss or  hemolysis.
   - guaiac stool (need bowel regimen)
   - active T+S; transfuse Hct < 21; trend Hct [**Hospital1 **]
   - low threshold to rescan abdomen for hemorrhagic conversion
   .
   # alcohol abuse
   - continue MVI/thiamine/folate
   .
   # hyponatremia
 Persists after initial IVF rescue.  Uosm = 555, Sosm =
   272.  Could be consistent with hypovolemia vs. SIADH.
   - trend, gentle IVF as needed
   .
   # thrombocytopenia: could be due to alcohol related myelosuppression,
   hemodilution given fluid, other drug effect or splenomegaly.
   - continue to trend
   .
   FEN: IVF, replete electrolytes, enteric feed, bowel regimen
   Prophylaxis: Subcutaneous heparin, H2 blocker
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2141-5-31**] 09:00 PM 44 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-01 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   REmains intubated, mechanically ventilated.
   Sedation doses much reduced this AM.  Favorable RSBI, but marginal.
   Tolerating SBT, appears comfortable.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-5-30**] 07:42 AM
   Ciprofloxacin - [**2141-6-1**] 12:03 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2141-5-31**] 01:12 PM
   Midazolam (Versed) - [**2141-5-31**] 04:23 PM
   Fentanyl - [**2141-6-1**] 12:30 AM
   Famotidine (Pepcid) - [**2141-6-1**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2141-6-1**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-6-1**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.3
   HR: 110 (98 - 140) bpm
   BP: 118/73(84) {101/65(76) - 139/81(93)} mmHg
   RR: 21 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 73.9 kg
   Height: 63 Inch
             Total In:
                                                                  1,636 mL
                                                                    731 mL
   PO:
             TF:
                                                                    484 mL
   IVF:
                                                                    840 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    660 mL
   Urine:
                                                                  2,090 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -454 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (385 - 577) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 97
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: ///22/
   NIF: -32 cmH2O
   Ve: 13.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Macular erythematous rash predominately over back
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   220 K/uL
   162 mg/dL
   0.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   7 mg/dL
   98 mEq/L
   129 mEq/L
   24.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2141-5-28**]  02:45 PM
                             [**2141-5-29**]  04:51 AM
                             [**2141-5-29**]  05:07 AM
                             [**2141-5-29**]  08:16 PM
                             [**2141-5-29**]  08:39 PM
                             [**2141-5-30**]  04:16 AM
                             [**2141-5-30**]  05:41 AM
                             [**2141-5-30**]  01:11 PM
                             [**2141-5-31**]  04:35 AM
                             [**2141-6-1**]  04:38 AM
   WBC
   15.1
   12.6
   13.7
   14.9
   Hct
   26.8
   28.6
   26.1
   25.7
   24.3
   Plt
   121
   144
   174
   220
   Cr
   0.3
   0.3
   0.3
   0.4
   0.4
   0.3
   TCO2
   30
   27
   28
   26
   Glucose
   125
   127
   165
   223
   162
   Other labs: PT / PTT / INR:12.6/24.7/1.1, CK / CKMB /
   Troponin-T:99/1/<0.01, ALT / AST:127/139, Alk Phos / T Bili:99/0.4,
   Amylase / Lipase:/225, Differential-Neuts:92.0 %, Band:1.0 %, Lymph:6.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL,
   LDH:382 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   42 yof EtOH abuse, hypertension, seizure disorder presents now with
   acute pancreatitis, complicated by ARDS. Continues to demonstrate
   evidence for clinical improvement.
   RESPIRATORY FAILURE
 Attributed predominatly to ARDS in context of
   acute pancreatitis.  Radiographic and clinical improvement last week,
   but now with evidence for pneumonia (probable VAP).  Continue
   mechanical ventilation, lung protective strategy, PEEP.  Continue
   antimicrobials.  Pneumonia responding. Continue to progress to SBT and
   extubation.
   PANCREATITIS -- acute, related to EtOH and/or lipidemia.  Continue
   current level of management (fluid mangement, pain management).
   Monitor amylase, lipase.  Surgery now off case.  Iniital ABD CT without
   evidence for bleeding.  Consider Meropenem empirically esp if evidence
   for necrotizing pancreatitis.
   FEVER
 attributed in part to acute pancreatitis.  Monitor closely,
   remains off antimicrobials.  Low threshold for iniating
   antimicrobials.  Low threshold for repeat Abd CT.
   HYPONATREMIA -- total body depleted.  Possible SIADH. Possible
   drug-effect. Check serum and urine osmolality, electrolytes.
   HYPERGLYCEMIA -- may in part reflect pancreatic inflammation.  Monitor
   glucose, maintain <150
   ANEMIA
 intially progressive, despite net negative fliud balance. No
   evidence for intraabdominal bleed.  Transfuse to maintain Hct >21.
   EtOH ABUSE -- chronic.  Last consumption 5 days PTA, need to monitor
   for evidence of withdrawal (DTs) -- now less likely for DTs.
   RASH -- possible drug-related, but suspect contact, perhaps related to
   bedding.  Change sheets to bleach-free.
   LFT abnormality
 attributed to EtOH.  Monitor.
   LDH ELEVATION -- attributed in part to lung injury. Slowly resolving.
   Monitor.
   FLUIDS --  Marked volume resusitation.  Tolerated net diuresis (lasix)
   to treat pulmonary edema.  Monitor I/O, BP, urine output.  Need to
   balance desire to keep hypovolemic (ARDS) and sufficient intravascular
   hydration (acute pancreatitis and third spacing).
   NUTRITIONAL SUPPORT
 tolerating TF, but need to unclog or repeat
   feeding tube placement.  [**Month (only) 11**] require TPN.
   ANXIETY -- continue iv benzodiazepine.  Hope to continue to taper.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-5-24**] 07:00 PM
   18 Gauge - [**2141-5-25**] 03:04 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill